simulator lang=spectre

include "CMOSlogic.scs"
include "transistorsPTM.scs"

parameters PWmin = 100n
parameters PLmin = 45n
parameters enableMismatch = 0

Vvdd     ( vdd     0 ) vsource dc=1
VvddBulk ( PBulkLine 0 ) vsource dc=1
Vvss     ( vss     0 ) vsource dc=0
VvssBulk ( NBulkLine 0 ) vsource dc=0

Vin (in 0) vsource dc=0

xinv in out vdd vss PBulkLine NBulkLine inverter

dcana dc
oper info what=oppoint
option1 options rawfmt = psfascii